US04665092
N-Acetyl-L-cysteine (5 g, 30.6 mM) was treated with excess diazomethane (generated from N-nitrosomethyl urea) in ether for 6 hr at RT. Unreacted starting material was removed by filtration and the resulting yellow filtrate was allowed to stand overnight. The solvent was removed in vacuo and the residue crystallized from Et2O/Pet. ether to give pure N-acetyl-L-cysteine methyl ester (650 mg); mp 73°-76° C. compared to a literature mp of 81°-82° C. in the Journal of Organic Chemistry, Vol. 35, p. 3542 (1970) and 79°-80° C. in the Canadian Journal of Chemistry, Vol. 44, p. 2517 (1966).

reactant | N-Acetyl-L-cysteine | 30.6 mM, 5 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | N-acetyl-L-cysteine methyl ester | 650 mg | COC([C@@H](NC(C)=O)CS)=O | C6H11NO3S
